US06884821B1
0.4 g of ethyl 5-phenyl-4-isoxazole carboxylate was dissolved in 10 ml ethanol, and 2 ml of 5N sodium hydroxide solution was added, and the mixture was stirred at room temperature for 1 hour. The reaction solution was neutralized with 2 N hydrochloric acid and then extracted with ethyl acetate. The organic layer was washed with brine, dried over anhydrous magnesium sulfate and evaporated, to give 0.25 g of 5-phenyl-3-isoxazolecarboxylic acid.

reactant | ethyl 5-phenyl-4-isoxazole carboxylate | 0.4 g | C1(=CC=CC=C1)C1=C(C=NO1)C(=O)OCC | C12H11NO3
reactant | sodium hydroxide | 5N, 2 ml | [OH-].[Na+]
reactant | hydrochloric acid | 2 N | Cl | ClH
reactant | ethanol | 10 ml | C(C)O | C2H6O
product | 5-phenyl-3-isoxazolecarboxylic acid | 0.25 g | C1(=CC=CC=C1)C1=CC(=NO1)C(=O)O | C10H7NO3
